US07977340B2
Step 2. 2-Methoxy-6-tributylstannanyl-pyridine
To a solution of 2-dimethylaminoethanol (3.50 mL, 16.36 mmol) in hexane (20.0 mL, HPLC grade) cooled at −5° C. was added drop wise n-BuLi (3.60 M, 9.0 mL, 32.40 mmol) under nitrogen atmosphere. After 30 min at 0° C., 2-methoxy-pyridine (0.60 g, 5.45 mmol) in hexane (20.0 mL) was added drop wise. After stirring the reaction mixture for 1 h at 0-5° C., the reaction medium was cooled to −78° C. followed by drop wise addition of tributyl tin chloride (3.70 mL, 13.62 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then allowed to stir at 0-5° C. for 30 min. The reaction mixture was then allowed to come to room temperature. After the completion of reaction (TLC monitoring), the reaction mass was cooled to 0° C. and water was added slowly. The aqueous phase was extracted with diethyl ether (3×50 mL). The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness. The crude residue (1.80 g, 72%) was carried forward to the next step without further purification.

reactant | 2-dimethylaminoethanol | 16.36 mmol, 3.50 mL | CN(CCO)C | C4H11NO
reactant | n-BuLi | 32.40 mmol, 3.60 M, 9.0 mL | [Li]CCCC
reactant | 2-methoxy-pyridine | 5.45 mmol, 0.60 g | COC1=NC=CC=C1 | C6H7NO
reactant | tributyl tin chloride | 13.62 mmol, 3.70 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | 20.0 mL | CCCCCC | C6H14
solvent | hexane | 20.0 mL | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-Methoxy-6-tributylstannanyl-pyridine | COC1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H6NO.3C4H9.Sn/c1-8-6-4-2-3-5-7-6;3*1-3-4-2;/h2-4H,1H3;3*1,3-4H2,2H3;
